US09376422B2
3-(Aminomethyl)-6-methyl-4-propyl-1,2-dihydropyridin-2-one HCl salt
To a stirred solution of 6-methyl-2-oxo-4-propyl-1,2-dihydropyridine-3-carbonitrile (15.0 g, 85.1 mmol) in methanol (600 mL) and concentrated HCl (15 mL) was added Pd(OH)2 (15.0 g). The mixture was stirred for 48 hours under H2 atmosphere. The reaction mixture was filtered and filtrate was concentrated in vacuo. Ethanol was added to the residue, the resulting precipitate was collected and dried to give the titled compound as a white solid (13.0 g, 60% yield). 1H-NMR (400 MHz, CDCl3) δppm; 11.86 (br. s., 1H), 6.00 (s, 1H), 3.78 (q, J=5.5 Hz, 2H), 3.61 (br. s., 2H), 2.46 (m, 2H), 2.17 (s, 3H), 1.50 (sxt, J=7.4 Hz, 2H), 0.91 (t, J=7.4 Hz, 3H).

reactant | 6-methyl-2-oxo-4-propyl-1,2-dihydropyridine-3-carbonitrile | 85.1 mmol, 15.0 g | CC1=CC(=C(C(N1)=O)C#N)CCC | C10H12N2O
reactant | HCl | 15 mL | Cl | ClH
solvent | methanol | 600 mL | CO | CH4O
catalyst | Pd(OH)2 | 15.0 g | [OH-].[OH-].[Pd+2]
product | 3-(Aminomethyl)-6-methyl-4-propyl-1,2-dihydropyridin-2-one HCl salt | 13.0 g, 60% yield | Cl.NCC=1C(NC(=CC1CCC)C)=O | InChI=1S/C10H16N2O.ClH/c1-3-4-8-5-7(2)12-10(13)9(8)6-11;/h5H,3-4,6,11H2,1-2H3,(H,12,13);1H
